US06749771B1
a) 2,5-Di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzaldehyde
A solution of mesylchloride (4.23 g, 36.94 mmol) in 10 ml of dry THF was added dropwise under argon over a period of 15 minutes to a cooled (−25 ° C.) solution of 4-(6-acryloyloxyhexyloxy)benzoic acid and triethylamine (20 ml) in 80 ml of dry THF. The reaction mixture was then stirred for 60 min at −25 ° C., treated with a solution of 2,5-dihydroxybenzaldehyde (2.3 g, 16.65 mmol) in 60 ml of dry THF containing 195 mg of DMAP and further stirred at −25° C. for 2 h. The reaction mixture was then allowed to warm to room temperature and stirring was continued overnight. The reaction mixture was then poured into 120 ml of saturated NaHCO3 and extracted with 2×200 ml of ether. The combined organic extracts were washed with 3N HCl (200 ml) and semi-saturated NaCl solution (2×100 ml), dried over MgSO4, filtered and dried to give a slightly yellow pasty material. This was purified by flash chromatography over a short silica column (CH2Cl2/Et2O:19.5/0.5) to give a white residue (9.25 g) which was dissolved in CH2Cl2 (25 ml) then recrystallised from ethanol (250 ml) to give pure 2,5-di-[4-(6-acryloyloxy-hexyloxy)hexyloxy)phenylcarbonyloxy]benzaldehyde as a white crystalline material. Yield 8.5 g.

reactant | mesylchloride | 36.94 mmol, 4.23 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-(6-acryloyloxyhexyloxy)benzoic acid | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | 2,5-dihydroxybenzaldehyde | 16.65 mmol, 2.3 g | OC1=C(C=O)C=C(C=C1)O | C7H6O3
reactant | NaHCO3 | 120 ml | C(=O)(O)[O-].[Na+]
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml, 195 mg | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,5-Di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]benzaldehyde | 9.25 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=C(C=O)C=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O11
